US04495272
Synthesis of 2-(4-cyanophenylureido)-5-methacrylamido-phenol [Monomer Coupler (18)]
10.8 g (0.04 mol) of 2-(4-cyanophenylureido)-5-aminophenol was added to 100 ml of acetonitrile and to which were added 17.6 ml (0.2 mol) of pyridine and 0.3 ml of nitrobenzene while cooling with stirring. To the solution was added dropwise 5.0 g (0.048 mol) of methacrylic chloride and the mixture was stirred for about 1.5 hours. 200 ml of water was added to the reaction mixture and the crystals thus deposited were collected by filtration and recrystallized from acetone to obtain 3.8 g (28.3%) of Monomer Coupler (18).

reactant | 2-(4-cyanophenylureido)-5-aminophenol | 0.04 mol, 10.8 g | C(#N)C1=CC=C(C=C1)NC(NC1=C(C=C(C=C1)N)O)=O | C14H12N4O2
reactant | pyridine | 0.2 mol, 17.6 ml | N1=CC=CC=C1 | C5H5N
reactant | nitrobenzene | 0.3 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | methacrylic chloride | 0.048 mol, 5.0 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | water | 200 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(4-cyanophenylureido)-5-methacrylamido-phenol | 3.8 g, 28.3% | C(#N)C1=CC=C(C=C1)NC(NC1=C(C=C(C=C1)NC(C(=C)C)=O)O)=O | C18H16N4O3
